US09328061B2
EDC.HCl (4.22 g, 22.0 mmol), reagent grade CH2Cl2 (80 mL), HOBt.H2O (3.36 g, 22.0 mmol), and Boc-Val-OH (4.34 g, 20.0 mmol) are added successively at 22° C. under air to a 250 mL round bottom flask equipped with a stir bar. The light yellow solution is allowed to stir for five minutes and dimethylamine (40 wt % in H2O, 5.3 mL, 50 mmol) is added drop-wise over one minute. The flask with the resulting light yellow solution is sealed with a rubber septum and allowed to stir for 12 h at 22° C. An aqueous solution of citric acid (10 wt %, 80 mL) is then added and the mixture is allowed to stir for 0.5 h during which time a white precipitate is formed. The precipitate is removed by filtration and the resulting two layers are separated. The organic layer is washed sequentially with an aqueous solution of citric acid (10 wt %, 80 mL), a saturated aqueous solution of NaHCO3 (80 mL), and brine (80 mL) and is dried over Na2SO4 to give (S)-tert-butyl(1-(dimethylamino)-3-methyl-1-oxobutan-2-yl)carbamate (S2) as pale yellow oil, which is employed without purification in the subsequent deprotection.

reactant | EDC.HCl | 22.0 mmol, 4.22 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 22.0 mmol, 3.36 g | O | H2O
reactant | Boc-Val-OH | 20.0 mmol, 4.34 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | dimethylamine | 50 mmol, 5.3 mL | CNC | C2H7N
reactant | citric acid | 80 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl(1-(dimethylamino)-3-methyl-1-oxobutan-2-yl)carbamate | C(C)(C)(C)OC(N[C@H](C(=O)N(C)C)C(C)C)=O | C12H24N2O3
